US07666866B2
The free base form of N1-[2-(2-aminoethoxy)-4-methoxybenzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine was prepared by vigorously stirring N1-[2-(2-aminoethoxy)-4-methoxybenzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine trifluoroacetate (1.88 g, 3.42 mmol) with 100 ml water, 2 grams potassium carbonate and 100 ml of CH2Cl2 for several hours at room temperature. After stirring, the organic layer was set aside and combined with a 150 ml CH2Cl2 wash of the original aqueous layer. The combined CH2Cl2 extracts were washed with brine, dried over Na2SO4, concentrated in vacuo, then purified on a chromatotron system (4 mm plate) with 9:1 CH2Cl2:MeOH eluent to provide N1-[2-(2-aminoethoxy)-4-methoxybenzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine (1.26 g, 85%) as a brittle white foam after high vacuum drying.

reactant | N1-[2-(2-aminoethoxy)-4-methoxybenzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine trifluoroacetate | 3.42 mmol, 1.88 g | FC(C(=O)O)(F)F.NCCOC1=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC(=C1)OC
reactant | water | 100 ml | O | H2O
reactant | potassium carbonate | 2 grams | C([O-])([O-])=O.[K+].[K+]
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N1-[2-(2-aminoethoxy)-4-methoxybenzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 1.26 g, 85% | NCCOC1=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC(=C1)OC | C24H25N3O5
